US07112675B2
5-[[2-(Dimethylamino)pyrrolo[2,1-f][1,2,4]triazin-4-yl]amino]-2-methylphenol
To a solution of 4-chloro-2-dimethylaminopyrrolo[2,1-f][1,2,4]triazin-2-amine (50 mg, 0.26 mmol) (Tetrahedron, 3037, 52, 1996, José´Ma. Quintela, Maria J. Moreira and Carlos Peinador) in ethanol (2.5 mL) under argon was added 5-amino-o-cresol (35 mg, 0.28 mmol). The reaction mixture was stirred overnight at 75° C. Upon cooling, a solid precipitated which was recrystallized from warm ethanol to provide 52 mg (72%) of the title compound as white solid. MS: [M+H]+=284.2, ESI [M−H]−=282.1; 1H NMR (CDCl3): δ 7.52 (s, 1H), 7.13–6.98 (m, 4H), 6.58 (s, 1H), 3.15 (s, 6H), 2.19 (s, 3H).

reactant | 4-chloro-2-dimethylaminopyrrolo[2,1-f][1,2,4]triazin-2-amine | 0.26 mmol, 50 mg | ClC1=NC(NN2C1=CC=C2)(N)N(C)C | C8H12ClN5
reactant | 5-amino-o-cresol | 0.28 mmol, 35 mg | NC1=CC=C(C(=C1)O)C | C7H9NO
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 5-[[2-(Dimethylamino)pyrrolo[2,1-f][1,2,4]triazin-4-yl]amino]-2-methylphenol | 52 mg, 72% | CN(C1=NN2C(C(=N1)NC=1C=CC(=C(C1)O)C)=CC=C2)C | C15H17N5O
